US07968570B2
J127: 4-{[7-Chloro-1 oxo-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-1H-isoindol-5-ylamino]-methyl}-piperidine-1-carboxylic acid tert-butyl ester
To a solution of 7-chloro-1-oxo-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-1H-isoindole-5-carbaldehyde (60 mg, 0.162 mmol) in methanol (1.6 mL) was added formic acid (0.02 ml), 4-Aminomethyl-piperidine-1-carboxylic acid tert-butyl ester (35 mg, 0.162 mmol), and Sodium cyanoborohydride (0.2 mL, 1M in THF) respectively. The mixture stirred at room temperature for 1 hour and was then diluted with water and extracted with ethyl acetate. The organic were washed with brine, dried over anhydrous sodium sulfate, filtered and concentrated. Column chromatography (56-60% ethyl acetate in hexanes) provided the title compound (47 mg, 52%). 1H NMR (300 MHz, CDCl3): δ (7.35 (d, 4H), 7.18 (d, 2H), 4.77 (s, 2H), 4.25 (s, 2H), 4.13 (br s, 1H), 3.86 (s, 2H), 2.65 (t, 4H), 2.54 (d, 2H), 1.70 (t, 4H), 1.45 (s, 9H)

reactant | 7-chloro-1-oxo-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-1H-isoindole-5-carbaldehyde | 0.162 mmol, 60 mg | ClC=1C=C(C=C2CN(C(C12)=O)CC1=CC=C(C=C1)OC(F)(F)F)C=O | C17H11ClF3NO3
reactant | formic acid | 0.02 ml | C(=O)O | CH2O2
reactant | 4-Aminomethyl-piperidine-1-carboxylic acid tert-butyl ester | 0.162 mmol, 35 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CN | C11H22N2O2
reactant | Sodium cyanoborohydride | 1M, 0.2 mL | C(#N)[BH3-].[Na+]
solvent | methanol | 1.6 mL | CO | CH4O
solvent | water | O | H2O
product | 4-{[7-Chloro-1 oxo-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-1H-isoindol-5-ylamino]-methyl}-piperidine-1-carboxylic acid tert-butyl ester | 47 mg, 52% | C(C)(C)(C)OC(=O)N1CCC(CC1)CNC=1C=C2CN(C(C2=C(C1)Cl)=O)CC1=CC=C(C=C1)OC(F)(F)F | C27H31ClF3N3O4
